US04474754
17(d). Preparation of Z-Tyr-Ser-Leu-Ser-NHNH2
1.00 Gram of Z-Tyr-Ser-Leu-Ser-OCH3 was dissolved in methanol, then under ice-cooled condition, 0.82 ml of 100%-NH2NH2.H2O was added thereto and the mixture was allowed to stand at a room temperature for 18 hours. Methanol was removed by distillation under a reduced pressure, the residue was solidified by adding ethyl ether, then washed with water to remove an excess of NH2NH2.H2O, reprecipitated from methanol-ether, washed with a hot methanol to obtain 0.81 g of the desired product.

reactant | Z-Tyr-Ser-Leu-Ser-OCH3 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C30H40N4O10
reactant | NH2NH2.H2O | NN.O
solvent | methanol | CO | CH4O
product | Z-Tyr-Ser-Leu-Ser-NHNH2 | 0.81 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C29H40N6O9
